data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5164,5862,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][NH+:20]=[C:21]([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[NH:20][C:21]2([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,29.579764242969706,5.5100594072534905
1343,1473,[CH3:13][c:14]1[o:15][c:16](=[O:17])[c-:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[n+:25]1[CH3:26].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:18]1([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[C:16](=[O:17])[O:15][C:14]2([CH3:13])[N:25]1[CH3:26],water,298.15,33.8934922645926,6.531416763698227
4945,5631,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16](=[O:17])[O:18][CH3:19])=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24]([CH3:25])=[O:26]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16](=[O:17])[O:18][CH3:19])[N:20]([CH3:21])[C:22]2([CH3:23])[C:24]([CH3:25])=[O:26],water,298.15,24.8116342527423,-15.165939616777324
457,499,[CH3:11][CH:12]=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[N:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[NH:13][CH:12]2[CH3:11],water,298.15,21.62525995727218,-29.91704149708591
4833,5515,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[cH:7]1[cH:8][cH:9][c:10]([N-:11][O+:12]=[C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[cH:26][cH:27]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:11]([c:10]2[cH:9][cH:8][cH:7][cH:27][cH:26]2)[O:12][C:13]1([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,23.41055565199225,-14.988408569599926
2037,2260,[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17]2([C:18](=[O:19])[NH:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,5.90385267065011,-47.08471367319582
2430,2698,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([CH3:20])[C:21](=[O:22])[O:23][CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[O:18][C:19]2([CH3:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,14.609558140003696,-37.12654388314834
5183,5881,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[O:29][CH3:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:27](=[O:28])[O:29][CH3:30])[NH:15][C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,32.57442563420564,-3.986058367577384
841,911,[CH3:12][NH:13][C:14](=[O:15])[CH-:16][NH+:17]=[C:18]([CH3:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:16]([C:14]([NH:13][CH3:12])=[O:15])[NH:17][C:18]2([CH3:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,18.16105942680145,-13.884463301197494
3320,3768,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][CH-:8][N+:9]([CH3:10])=[C:11]([CH3:12])[C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:8]([CH3:7])[N:9]([CH3:10])[C:11]1([CH3:12])[C:13](=[O:14])[O:15][CH3:16],water,298.15,20.91170927626111,-19.805165129378253
4599,5245,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH2:15]=[N+:16]([CH3:17])[C-:18]([C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:19]#[N:20])([C:21](=[O:22])[O:23][CH3:24])[N:16]([CH3:17])[CH2:15]2,water,298.15,17.659526296323378,-0.6094827554357509
